* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.00014592802666149837
Fd1_1 0 s1 V1 0.007296401333074919
Gr1_1_1 0 s1 x1_a1 0 -1216091190346513.0
Gr2_1_1 0 s1 x2_a1 0 1088110934722314.1
Gr3_1_1 0 s1 x3_a1 0 -205633282861868.66
Gr4_1_1 0 s1 x4_a1 0 106746524272433.48
Gr5_1_1 0 s1 x5_a1 0 -4538643179841.998
Gr6_re_1_1 0 s1 x6_re_a1 0 130055699505.28288
Gr6_im_1_1 0 s1 x6_im_a1 0 -226660759357.12152
Gr7_re_1_1 0 s1 x7_re_a1 0 -206970709.07459995
Gr7_im_1_1 0 s1 x7_im_a1 0 -878849674.0048599
Gr8_re_1_1 0 s1 x8_re_a1 0 -114514065.70392804
Gr8_im_1_1 0 s1 x8_im_a1 0 65050698.7440728
Gr9_re_1_1 0 s1 x9_re_a1 0 -94870.35083176063
Gr9_im_1_1 0 s1 x9_im_a1 0 95891.9558565325
Gr10_re_1_1 0 s1 x10_re_a1 0 -17880782539.698376
Gr10_im_1_1 0 s1 x10_im_a1 0 -12121606164.55926
Gr11_re_1_1 0 s1 x11_re_a1 0 -24838112312.993923
Gr11_im_1_1 0 s1 x11_im_a1 0 -91680070596.44609
Gr12_re_1_1 0 s1 x12_re_a1 0 14528293125.28805
Gr12_im_1_1 0 s1 x12_im_a1 0 -78044331471.50453
Gr13_1_1 0 s1 x13_a1 0 25052954711.281155
Gr14_re_1_1 0 s1 x14_re_a1 0 30162.562376322734
Gr14_im_1_1 0 s1 x14_im_a1 0 6250.42015934178
Gr15_1_1 0 s1 x15_a1 0 8974069.6998432
Gr16_1_1 0 s1 x16_a1 0 -11919781.99251246
Gd1_2 0 s1 p2 0 0.0008197161429204088
Fd1_2 0 s1 V2 0.04098580714602044
Gr1_1_2 0 s1 x1_a2 0 476754655314075.3
Gr2_1_2 0 s1 x2_a2 0 -415816189040638.1
Gr3_1_2 0 s1 x3_a2 0 60723042895320.22
Gr4_1_2 0 s1 x4_a2 0 -26372372713407.1
Gr5_1_2 0 s1 x5_a2 0 -407654200769.76447
Gr6_re_1_2 0 s1 x6_re_a2 0 68609952498.51288
Gr6_im_1_2 0 s1 x6_im_a2 0 79924427075.06866
Gr7_re_1_2 0 s1 x7_re_a2 0 -3652066603.4990664
Gr7_im_1_2 0 s1 x7_im_a2 0 4165732143.0793705
Gr8_re_1_2 0 s1 x8_re_a2 0 1968537662.3355987
Gr8_im_1_2 0 s1 x8_im_a2 0 -1039936387.3185061
Gr9_re_1_2 0 s1 x9_re_a2 0 -800175.5152340933
Gr9_im_1_2 0 s1 x9_im_a2 0 -937198.5321836238
Gr10_re_1_2 0 s1 x10_re_a2 0 26640872086.53193
Gr10_im_1_2 0 s1 x10_im_a2 0 1403225104.0120885
Gr11_re_1_2 0 s1 x11_re_a2 0 81821677934.41411
Gr11_im_1_2 0 s1 x11_im_a2 0 -38446366785.94751
Gr12_re_1_2 0 s1 x12_re_a2 0 49789605074.966736
Gr12_im_1_2 0 s1 x12_im_a2 0 -50261281806.76173
Gr13_1_2 0 s1 x13_a2 0 24324728662.68568
Gr14_re_1_2 0 s1 x14_re_a2 0 384005.7105295101
Gr14_im_1_2 0 s1 x14_im_a2 0 -261870.46133504983
Gr15_1_2 0 s1 x15_a2 0 -101035093.58737946
Gr16_1_2 0 s1 x16_a2 0 102215707.27456266
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 2.1582995929449244e-12
Cx2_a1 x2_a1 0 1.0
Gx2_a1 0 x2_a1 p1 0 0.07071067811865475
Fx2_a1 0 x2_a1 V1 3.5355339059327378
Rp2_a1 0 x2_a1 3.1892216858258957e-12
Cx3_a1 x3_a1 0 1.0
Gx3_a1 0 x3_a1 p1 0 0.07071067811865475
Fx3_a1 0 x3_a1 V1 3.5355339059327378
Rp3_a1 0 x3_a1 1.199233312570062e-11
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.6797813288511926e-11
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 5.179182071660466e-11
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 1.1569725360229101e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 13472914263.942835
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -13472914263.942835
Rp6_im_im_a1 0 x6_im_a1 1.1569725360229101e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 4.885847358055417e-10
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 13955559192.851038
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -13955559192.851038
Rp7_im_im_a1 0 x7_im_a1 4.885847358055417e-10
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 8.732205707802388e-10
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 13569450735.263346
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -13569450735.263346
Rp8_im_im_a1 0 x8_im_a1 8.732205707802388e-10
Cx9_re_a1 x9_re_a1 0 1.0
Gx9_re_a1 0 x9_re_a1 p1 0 0.1414213562373095
Fx9_re_a1 0 x9_re_a1 V1 7.0710678118654755
Rp9_re_re_a1 0 x9_re_a1 6.641971110022077e-08
Gp9_re_im_a1 0 x9_re_a1 x9_im_a1 0 12566651174.1685
Cx9_im_a1 x9_im_a1 0 1.0
Gp9_im_re_a1 0 x9_im_a1 x9_re_a1 0 -12566651174.1685
Rp9_im_im_a1 0 x9_im_a1 6.641971110022077e-08
Cx10_re_a1 x10_re_a1 0 1.0
Gx10_re_a1 0 x10_re_a1 p1 0 0.1414213562373095
Fx10_re_a1 0 x10_re_a1 V1 7.0710678118654755
Rp10_re_re_a1 0 x10_re_a1 2.1614469589900744e-10
Gp10_re_im_a1 0 x10_re_a1 x10_im_a1 0 11940713931.49211
Cx10_im_a1 x10_im_a1 0 1.0
Gp10_im_re_a1 0 x10_im_a1 x10_re_a1 0 -11940713931.49211
Rp10_im_im_a1 0 x10_im_a1 2.1614469589900744e-10
Cx11_re_a1 x11_re_a1 0 1.0
Gx11_re_a1 0 x11_re_a1 p1 0 0.1414213562373095
Fx11_re_a1 0 x11_re_a1 V1 7.0710678118654755
Rp11_re_re_a1 0 x11_re_a1 1.5464119493001353e-10
Gp11_re_im_a1 0 x11_re_a1 x11_im_a1 0 8518536658.93483
Cx11_im_a1 x11_im_a1 0 1.0
Gp11_im_re_a1 0 x11_im_a1 x11_re_a1 0 -8518536658.93483
Rp11_im_im_a1 0 x11_im_a1 1.5464119493001353e-10
Cx12_re_a1 x12_re_a1 0 1.0
Gx12_re_a1 0 x12_re_a1 p1 0 0.1414213562373095
Fx12_re_a1 0 x12_re_a1 V1 7.0710678118654755
Rp12_re_re_a1 0 x12_re_a1 1.488197029284063e-10
Gp12_re_im_a1 0 x12_re_a1 x12_im_a1 0 4596310224.5087
Cx12_im_a1 x12_im_a1 0 1.0
Gp12_im_re_a1 0 x12_im_a1 x12_re_a1 0 -4596310224.5087
Rp12_im_im_a1 0 x12_im_a1 1.488197029284063e-10
Cx13_a1 x13_a1 0 1.0
Gx13_a1 0 x13_a1 p1 0 0.07071067811865475
Fx13_a1 0 x13_a1 V1 3.5355339059327378
Rp13_a1 0 x13_a1 1.73571779032055e-10
Cx14_re_a1 x14_re_a1 0 1.0
Gx14_re_a1 0 x14_re_a1 p1 0 0.1414213562373095
Fx14_re_a1 0 x14_re_a1 V1 7.0710678118654755
Rp14_re_re_a1 0 x14_re_a1 2.7746756958749157e-08
Gp14_re_im_a1 0 x14_re_a1 x14_im_a1 0 1282163628.2409852
Cx14_im_a1 x14_im_a1 0 1.0
Gp14_im_re_a1 0 x14_im_a1 x14_re_a1 0 -1282163628.2409852
Rp14_im_im_a1 0 x14_im_a1 2.7746756958749157e-08
Cx15_a1 x15_a1 0 1.0
Gx15_a1 0 x15_a1 p1 0 0.07071067811865475
Fx15_a1 0 x15_a1 V1 3.5355339059327378
Rp15_a1 0 x15_a1 2.4235094155583407e-09
Cx16_a1 x16_a1 0 1.0
Gx16_a1 0 x16_a1 p1 0 0.07071067811865475
Fx16_a1 0 x16_a1 V1 3.5355339059327378
Rp16_a1 0 x16_a1 2.255605598074945e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.0008197161429204088
Fd2_1 0 s2 V1 0.04098580714602044
Gr1_2_1 0 s2 x1_a1 0 476754655298088.4
Gr2_2_1 0 s2 x2_a1 0 -415816189026470.1
Gr3_2_1 0 s2 x3_a1 0 60723042892783.24
Gr4_2_1 0 s2 x4_a1 0 -26372372712099.97
Gr5_2_1 0 s2 x5_a1 0 -407654200840.124
Gr6_re_2_1 0 s2 x6_re_a1 0 68609952502.399055
Gr6_im_2_1 0 s2 x6_im_a1 0 79924427074.28226
Gr7_re_2_1 0 s2 x7_re_a1 0 -3652066603.4676294
Gr7_im_2_1 0 s2 x7_im_a1 0 4165732143.0793376
Gr8_re_2_1 0 s2 x8_re_a1 0 1968537662.3327887
Gr8_im_2_1 0 s2 x8_im_a1 0 -1039936387.3230841
Gr9_re_2_1 0 s2 x9_re_a1 0 -800175.5151821919
Gr9_im_2_1 0 s2 x9_im_a1 0 -937198.5321594256
Gr10_re_2_1 0 s2 x10_re_a1 0 26640872086.6107
Gr10_im_2_1 0 s2 x10_im_a1 0 1403225103.4454079
Gr11_re_2_1 0 s2 x11_re_a1 0 81821677935.2108
Gr11_im_2_1 0 s2 x11_im_a1 0 -38446366788.218765
Gr12_re_2_1 0 s2 x12_re_a1 0 49789605075.87799
Gr12_im_2_1 0 s2 x12_im_a1 0 -50261281808.61442
Gr13_2_1 0 s2 x13_a1 0 24324728663.42091
Gr14_re_2_1 0 s2 x14_re_a1 0 384005.7105689567
Gr14_im_2_1 0 s2 x14_im_a1 0 -261870.46130700264
Gr15_2_1 0 s2 x15_a1 0 -101035093.58613062
Gr16_2_1 0 s2 x16_a1 0 102215707.27282847
Gd2_2 0 s2 p2 0 0.00015358655673653187
Fd2_2 0 s2 V2 0.007679327836826594
Gr1_2_2 0 s2 x1_a2 0 -1206943867164752.5
Gr2_2_2 0 s2 x2_a2 0 1079656616661590.6
Gr3_2_2 0 s2 x3_a2 0 -203620240367771.47
Gr4_2_2 0 s2 x4_a2 0 105595864536312.86
Gr5_2_2 0 s2 x5_a2 0 -4472968993108.377
Gr6_re_2_2 0 s2 x6_re_a2 0 126240648367.08139
Gr6_im_2_2 0 s2 x6_im_a2 0 -222026682565.09024
Gr7_re_2_2 0 s2 x7_re_a2 0 -241650272.99319232
Gr7_im_2_2 0 s2 x7_im_a2 0 -801133076.3237863
Gr8_re_2_2 0 s2 x8_re_a2 0 -91346799.54231936
Gr8_im_2_2 0 s2 x8_im_a2 0 51187891.69047077
Gr9_re_2_2 0 s2 x9_re_a2 0 -101307.20222257663
Gr9_im_2_2 0 s2 x9_im_a2 0 81494.82526177396
Gr10_re_2_2 0 s2 x10_re_a2 0 -17209655019.83921
Gr10_im_2_2 0 s2 x10_im_a2 0 -11677384551.16459
Gr11_re_2_2 0 s2 x11_re_a2 0 -23562428410.65815
Gr11_im_2_2 0 s2 x11_im_a2 0 -89804678748.90117
Gr12_re_2_2 0 s2 x12_re_a2 0 15005654484.445143
Gr12_im_2_2 0 s2 x12_im_a2 0 -76918868947.05286
Gr13_2_2 0 s2 x13_a2 0 24944882834.25233
Gr14_re_2_2 0 s2 x14_re_a2 0 33007.44075421791
Gr14_im_2_2 0 s2 x14_im_a2 0 4535.405252162076
Gr15_2_2 0 s2 x15_a2 0 8524387.031758863
Gr16_2_2 0 s2 x16_a2 0 -11521307.94714342
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 2.1582995929449244e-12
Cx2_a2 x2_a2 0 1.0
Gx2_a2 0 x2_a2 p2 0 0.07071067811865475
Fx2_a2 0 x2_a2 V2 3.5355339059327378
Rp2_a2 0 x2_a2 3.1892216858258957e-12
Cx3_a2 x3_a2 0 1.0
Gx3_a2 0 x3_a2 p2 0 0.07071067811865475
Fx3_a2 0 x3_a2 V2 3.5355339059327378
Rp3_a2 0 x3_a2 1.199233312570062e-11
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.6797813288511926e-11
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 5.179182071660466e-11
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 1.1569725360229101e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 13472914263.942835
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -13472914263.942835
Rp6_im_im_a2 0 x6_im_a2 1.1569725360229101e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 4.885847358055417e-10
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 13955559192.851038
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -13955559192.851038
Rp7_im_im_a2 0 x7_im_a2 4.885847358055417e-10
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 8.732205707802388e-10
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 13569450735.263346
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -13569450735.263346
Rp8_im_im_a2 0 x8_im_a2 8.732205707802388e-10
Cx9_re_a2 x9_re_a2 0 1.0
Gx9_re_a2 0 x9_re_a2 p2 0 0.1414213562373095
Fx9_re_a2 0 x9_re_a2 V2 7.0710678118654755
Rp9_re_re_a2 0 x9_re_a2 6.641971110022077e-08
Gp9_re_im_a2 0 x9_re_a2 x9_im_a2 0 12566651174.1685
Cx9_im_a2 x9_im_a2 0 1.0
Gp9_im_re_a2 0 x9_im_a2 x9_re_a2 0 -12566651174.1685
Rp9_im_im_a2 0 x9_im_a2 6.641971110022077e-08
Cx10_re_a2 x10_re_a2 0 1.0
Gx10_re_a2 0 x10_re_a2 p2 0 0.1414213562373095
Fx10_re_a2 0 x10_re_a2 V2 7.0710678118654755
Rp10_re_re_a2 0 x10_re_a2 2.1614469589900744e-10
Gp10_re_im_a2 0 x10_re_a2 x10_im_a2 0 11940713931.49211
Cx10_im_a2 x10_im_a2 0 1.0
Gp10_im_re_a2 0 x10_im_a2 x10_re_a2 0 -11940713931.49211
Rp10_im_im_a2 0 x10_im_a2 2.1614469589900744e-10
Cx11_re_a2 x11_re_a2 0 1.0
Gx11_re_a2 0 x11_re_a2 p2 0 0.1414213562373095
Fx11_re_a2 0 x11_re_a2 V2 7.0710678118654755
Rp11_re_re_a2 0 x11_re_a2 1.5464119493001353e-10
Gp11_re_im_a2 0 x11_re_a2 x11_im_a2 0 8518536658.93483
Cx11_im_a2 x11_im_a2 0 1.0
Gp11_im_re_a2 0 x11_im_a2 x11_re_a2 0 -8518536658.93483
Rp11_im_im_a2 0 x11_im_a2 1.5464119493001353e-10
Cx12_re_a2 x12_re_a2 0 1.0
Gx12_re_a2 0 x12_re_a2 p2 0 0.1414213562373095
Fx12_re_a2 0 x12_re_a2 V2 7.0710678118654755
Rp12_re_re_a2 0 x12_re_a2 1.488197029284063e-10
Gp12_re_im_a2 0 x12_re_a2 x12_im_a2 0 4596310224.5087
Cx12_im_a2 x12_im_a2 0 1.0
Gp12_im_re_a2 0 x12_im_a2 x12_re_a2 0 -4596310224.5087
Rp12_im_im_a2 0 x12_im_a2 1.488197029284063e-10
Cx13_a2 x13_a2 0 1.0
Gx13_a2 0 x13_a2 p2 0 0.07071067811865475
Fx13_a2 0 x13_a2 V2 3.5355339059327378
Rp13_a2 0 x13_a2 1.73571779032055e-10
Cx14_re_a2 x14_re_a2 0 1.0
Gx14_re_a2 0 x14_re_a2 p2 0 0.1414213562373095
Fx14_re_a2 0 x14_re_a2 V2 7.0710678118654755
Rp14_re_re_a2 0 x14_re_a2 2.7746756958749157e-08
Gp14_re_im_a2 0 x14_re_a2 x14_im_a2 0 1282163628.2409852
Cx14_im_a2 x14_im_a2 0 1.0
Gp14_im_re_a2 0 x14_im_a2 x14_re_a2 0 -1282163628.2409852
Rp14_im_im_a2 0 x14_im_a2 2.7746756958749157e-08
Cx15_a2 x15_a2 0 1.0
Gx15_a2 0 x15_a2 p2 0 0.07071067811865475
Fx15_a2 0 x15_a2 V2 3.5355339059327378
Rp15_a2 0 x15_a2 2.4235094155583407e-09
Cx16_a2 x16_a2 0 1.0
Gx16_a2 0 x16_a2 p2 0 0.07071067811865475
Fx16_a2 0 x16_a2 V2 3.5355339059327378
Rp16_a2 0 x16_a2 2.255605598074945e-09
.ENDS s_equivalent
