* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.005355295988831378
Fd1_1 0 s1 V1 0.2677647994415689
Gr1_1_1 0 s1 x1_a1 0 2078678905.6778996
Gr2_re_1_1 0 s1 x2_re_a1 0 1511749031.7890081
Gr2_im_1_1 0 s1 x2_im_a1 0 -2054218324.6068807
Gr3_re_1_1 0 s1 x3_re_a1 0 -2341142863.6333723
Gr3_im_1_1 0 s1 x3_im_a1 0 -2335933936.123392
Gr4_1_1 0 s1 x4_a1 0 -2923487446.40462
Gr5_1_1 0 s1 x5_a1 0 -283495801.4792366
Gr6_1_1 0 s1 x6_a1 0 175835490.49352267
Gd1_2 0 s1 p2 0 0.014913036246878222
Fd1_2 0 s1 V2 0.7456518123439112
Gr1_1_2 0 s1 x1_a2 0 -48977667639.87296
Gr2_re_1_2 0 s1 x2_re_a2 0 6547199174.628218
Gr2_im_1_2 0 s1 x2_im_a2 0 5903416625.828293
Gr3_re_1_2 0 s1 x3_re_a2 0 -2833496767.8162727
Gr3_im_1_2 0 s1 x3_im_a2 0 -1816354162.7184072
Gr4_1_2 0 s1 x4_a2 0 11327027409.572504
Gr5_1_2 0 s1 x5_a2 0 -282199906.25225127
Gr6_1_2 0 s1 x6_a2 0 176219781.8097182
*
* State networks driven by port 1
Cx1_a1 x1_a1 0 1.0
Gx1_a1 0 x1_a1 p1 0 0.07071067811865475
Fx1_a1 0 x1_a1 V1 3.5355339059327378
Rp1_a1 0 x1_a1 1.7925906010284674e-11
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 1.1814965912351902e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 14210729702.789669
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -14210729702.789669
Rp2_im_im_a1 0 x2_im_a1 1.1814965912351902e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.2389429464658476e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 7391029096.429581
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -7391029096.429581
Rp3_im_im_a1 0 x3_im_a1 1.2389429464658476e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.1973478555829033e-10
Cx5_a1 x5_a1 0 1.0
Gx5_a1 0 x5_a1 p1 0 0.07071067811865475
Fx5_a1 0 x5_a1 V1 3.5355339059327378
Rp5_a1 0 x5_a1 7.053190390674158e-10
Cx6_a1 x6_a1 0 1.0
Gx6_a1 0 x6_a1 p1 0 0.07071067811865475
Fx6_a1 0 x6_a1 V1 3.5355339059327378
Rp6_a1 0 x6_a1 1.1453630125541437e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 0.014913036246878222
Fd2_1 0 s2 V1 0.7456518123439112
Gr1_2_1 0 s2 x1_a1 0 -48977667639.87297
Gr2_re_2_1 0 s2 x2_re_a1 0 6547199174.62822
Gr2_im_2_1 0 s2 x2_im_a1 0 5903416625.828293
Gr3_re_2_1 0 s2 x3_re_a1 0 -2833496767.8162694
Gr3_im_2_1 0 s2 x3_im_a1 0 -1816354162.718406
Gr4_2_1 0 s2 x4_a1 0 11327027409.572496
Gr5_2_1 0 s2 x5_a1 0 -282199906.2522513
Gr6_2_1 0 s2 x6_a1 0 176219781.80971825
Gd2_2 0 s2 p2 0 0.005110093222767476
Fd2_2 0 s2 V2 0.2555046611383738
Gr1_2_2 0 s2 x1_a2 0 2125087520.715537
Gr2_re_2_2 0 s2 x2_re_a2 0 1541734266.0338593
Gr2_im_2_2 0 s2 x2_im_a2 0 -1936006053.932973
Gr3_re_2_2 0 s2 x3_re_a2 0 -2258904773.2323923
Gr3_im_2_2 0 s2 x3_im_a2 0 -2405189073.625444
Gr4_2_2 0 s2 x4_a2 0 -2993617079.719134
Gr5_2_2 0 s2 x5_a2 0 -273747200.17407954
Gr6_2_2 0 s2 x6_a2 0 170773167.84995624
*
* State networks driven by port 2
Cx1_a2 x1_a2 0 1.0
Gx1_a2 0 x1_a2 p2 0 0.07071067811865475
Fx1_a2 0 x1_a2 V2 3.5355339059327378
Rp1_a2 0 x1_a2 1.7925906010284674e-11
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 1.1814965912351902e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 14210729702.789669
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -14210729702.789669
Rp2_im_im_a2 0 x2_im_a2 1.1814965912351902e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.2389429464658476e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 7391029096.429581
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -7391029096.429581
Rp3_im_im_a2 0 x3_im_a2 1.2389429464658476e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.1973478555829033e-10
Cx5_a2 x5_a2 0 1.0
Gx5_a2 0 x5_a2 p2 0 0.07071067811865475
Fx5_a2 0 x5_a2 V2 3.5355339059327378
Rp5_a2 0 x5_a2 7.053190390674158e-10
Cx6_a2 x6_a2 0 1.0
Gx6_a2 0 x6_a2 p2 0 0.07071067811865475
Fx6_a2 0 x6_a2 V2 3.5355339059327378
Rp6_a2 0 x6_a2 1.1453630125541437e-09
.ENDS s_equivalent
